US08258144B2
A mixture of 6-aminouracil) 1.00 g, 7.87 mmol), sodium acetate (1.00 g, 12.2 mmol) and chloroacetone (95%, 1.00 mL, 11.9 mmol) in H2O (40 mL) was heated at reflux for 72 h. The solids were collected, and dried on vacuum to give 6-methyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diol (495 mg).

reactant | 6-aminouracil | NC1=CC(NC(N1)=O)=O | C4H5N3O2
reactant | sodium acetate | 12.2 mmol, 1.00 g | C(C)(=O)[O-].[Na+]
reactant | chloroacetone | 11.9 mmol, 1.00 mL | ClCC(C)=O | C3H5ClO
solvent | H2O | 40 mL | O | H2O
product | 6-methyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diol | 495 mg | CC1=CC2=C(N=C(N=C2O)O)N1 | C7H7N3O2
